US03992441
4-fluoro-5-dimethylaminosulfonylbenzoic acid;
4-fluoro-5-piperidinosulfonylbenzoic acid; 4-chloro-5-(3,5-dimethylpiperidinosulfonyl)benzoic acid; 4-chloro-5-morpholinosulfonylbenzoic acid; 4-chloro-5-(3-methylpiperidinosulfonyl)benzoic acid; 4-bromo-5-hexamethyleneiminosulfonylbenzoic acid; 4-bromo-5-(4-chlorobenzylaminosulfonyl)benzoic acid; 4-methyl-5-(4,4-dimethylpiperidinosulfonyl)benzoic acid; 4-methyl-5-(3,5-dibromophenylaminosulfonyl)benzoic acid; 4-methyl-5-(3-phenylpropylaminosulfonyl)benzoic acid; 4-methoxy-5-(2,4-dimethylpiperidinosulfonyl)benzoic acid; 4-methoxy-5-(4-biphenylethylaminosulfonyl)benzoic acid; 4-methoxy-5-(2-p-bromophenethylaminosulfonyl)benzoic acid; and 4-methoxy-5-di-i-propylaminosulfonylbenzoic acid.

reactant | 4-fluoro-5-piperidinosulfonylbenzoic acid | FC1=CC=C(C(=O)O)C=C1S(=O)(=O)N1CCCCC1 | C12H14FNO4S
reactant | 4-chloro-5-(3,5-dimethylpiperidinosulfonyl)benzoic acid | ClC1=CC=C(C(=O)O)C=C1S(=O)(=O)N1CC(CC(C1)C)C | C14H18ClNO4S
reactant | 4-chloro-5-morpholinosulfonylbenzoic acid | ClC1=CC=C(C(=O)O)C=C1S(=O)(=O)N1CCOCC1 | C11H12ClNO5S
reactant | 4-chloro-5-(3-methylpiperidinosulfonyl)benzoic acid | ClC1=CC=C(C(=O)O)C=C1S(=O)(=O)N1CC(CCC1)C | C13H16ClNO4S
reactant | 4-bromo-5-(4-chlorobenzylaminosulfonyl)benzoic acid | BrC1=CC=C(C(=O)O)C=C1S(=O)(=O)NCC1=CC=C(C=C1)Cl | C14H11BrClNO4S
reactant | 4-methyl-5-(4,4-dimethylpiperidinosulfonyl)benzoic acid | CC1=CC=C(C(=O)O)C=C1S(=O)(=O)N1CCC(CC1)(C)C | C15H21NO4S
reactant | 4-methyl-5-(3,5-dibromophenylaminosulfonyl)benzoic acid | CC1=CC=C(C(=O)O)C=C1S(=O)(=O)NC1=CC(=CC(=C1)Br)Br | C14H11Br2NO4S
reactant | 4-methyl-5-(3-phenylpropylaminosulfonyl)benzoic acid | CC1=CC=C(C(=O)O)C=C1S(=O)(=O)NCCCC1=CC=CC=C1 | C17H19NO4S
reactant | 4-methoxy-5-(2,4-dimethylpiperidinosulfonyl)benzoic acid | COC1=CC=C(C(=O)O)C=C1S(=O)(=O)N1C(CC(CC1)C)C | C15H21NO5S
reactant | 4-methoxy-5-di-i-propylaminosulfonylbenzoic acid | COC1=CC=C(C(=O)O)C=C1S(=O)(=O)N(C(C)C)C(C)C | C14H21NO5S
product | 4-fluoro-5-dimethylaminosulfonylbenzoic acid | FC1=CC=C(C(=O)O)C=C1S(=O)(=O)N(C)C | C9H10FNO4S
